US05081253
2-[(2-Phenylethyl)sulfinyl]-1H-imidazo[4,5-c]pyridine
2-[(2-Phenylethyl)thio]-1H-imidazo[4,5-c]pyridine (2.4 g, 0.0094 mol) was dissolved in 120 mL of chloroform with heating. The reaction solution was cooled in an ice bath to 0°-5° C. m-Chloroperoxybenzoic acid (1.91 g, 0.0094 mol) was added portionwise. The reaction mixture was then stirred at room temperature for 1 hour. 10% aqueous sodium bicarbonate was added and the organic layer was separated and dried over magnesium sulfate. After filtering, the filtrate was evaporated to half the volume in a rotary evaporator. Ether was added to the cloudy point and the reaction mixture was cooled in ice. The crystals that had formed amounted to 0.63 g. An analytical sample, m.p. 171°-174° C., was obtained by recrystallization from ethanol.

reactant | 2-[(2-Phenylethyl)thio]-1H-imidazo[4,5-c]pyridine | 0.0094 mol, 2.4 g | C1(=CC=CC=C1)CCSC=1NC2=C(C=NC=C2)N1 | C14H13N3S
reactant | m-Chloroperoxybenzoic acid | 0.0094 mol, 1.91 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[(2-Phenylethyl)sulfinyl]-1H-imidazo[4,5-c]pyridine | C1(=CC=CC=C1)CCS(=O)C=1NC2=C(C=NC=C2)N1 | C14H13N3OS
